datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[N+:21](C)(N(C)C)[H:20].c1ccc(-c2ccc3ncc(C[N:10]4CCOCC4)n3n2)cc1>>CC[N:21](C)N(C)C.c1ccc(-c2ccc3ncc(C[N+:10]4([H:20])CCOCC4)n3n2)cc1 10=20;20,21=21",
"CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccccc3)C(=O)N2[C@@H]1C(=O)[O-:10].CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCCn1cc[n+:21]([H:20])c1>>CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccccc3)C(=O)N2[C@@H]1C(=O)[O:10][H:20].CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCCn1cc[n:21]c1 10=20;20,21=21",
"O=C([O-])c1cccc2ccc([O-:10])cc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])c1cccc2ccc([O:10][H:20])cc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C)C(=O)[O-:10].C[N+:21](c1ccccc1)(C1CCCC1)[H:20]>>CC(C)(C)C(=O)[O:10][H:20].C[N:21](c1ccccc1)C1CCCC1 10=20;20,21=21",
"CC(=NO)/C(CN(C)C)=N\[O-:10].Cc1ccc(C(=O)[O:21][H:20])cc1O>>CC(=NO)/C(CN(C)C)=N\[O:10][H:20].Cc1ccc(C(=O)[O-:21])cc1O 10=20;20,21=21",
"COc1cc(C)ccc1C(=O)[O:21][H:20].[NH3+]CCCC[NH2:10]>>COc1cc(C)ccc1C(=O)[O-:21].[NH3+]CCCC[NH2+:10][H:20] 10=20;20,21=21",
"Cc1c2[nH]c3ccccc3c2cc[n:10]1.[O-][n+]1cccc([O:21][H:20])c1>>Cc1c2[nH]c3ccccc3c2cc[n+:10]1[H:20].[O-][n+]1cccc([O-:21])c1 10=20;20,21=21",
"Cc1cccc2ccc([O:21][H:20])cc12.O=C(C[NH2:10])Nc1ccc([N+](=O)[O-])cc1>>Cc1cccc2ccc([O-:21])cc12.O=C(C[NH2+:10][H:20])Nc1ccc([N+](=O)[O-])cc1 10=20;20,21=21",
"C(CSCCc1nnn[n:21]1[H:20])SCCc1nnn[n-]1.Cc1cccc(C(=O)[O-:10])c1O>>C(CSCCc1nnn[n-:21]1)SCCc1nnn[n-]1.Cc1cccc(C(=O)[O:10][H:20])c1O 10=20;20,21=21",
"Cc1cccc(C(=O)[O-])c1[O-:10].O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>Cc1cccc(C(=O)[O-])c1[O:10][H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC(C)[N:10](C)C.CC1=CSC2=[N+:21]([H:20])CCCN12>>CC(C)[N+:10](C)(C)[H:20].CC1=CSC2=[N:21]CCCN12 10=20;20,21=21",
"CCCCCCCCCCc1c(-c2ccccc2)n[nH]c1[O-:10].CCC[NH2+:21][H:20]>>CCCCCCCCCCc1c(-c2ccccc2)n[nH]c1[O:10][H:20].CCC[NH2:21] 10=20;20,21=21",
"C=C(C)[C@@H]1CN(C(C)=O)[C@H](C(=O)OC)[C@@H]1CC(=O)[O:21][H:20].Clc1ccc(-c2c[n:10]c(-c3ccccc3)o2)cc1>>C=C(C)[C@@H]1CN(C(C)=O)[C@H](C(=O)OC)[C@@H]1CC(=O)[O-:21].Clc1ccc(-c2c[n+:10]([H:20])c(-c3ccccc3)o2)cc1 10=20;20,21=21",
"CCCC[N+:21](CCCC)(c1ccccc1)[H:20].Cc1cc2c(cc1C)[n:10]cn2[C@H]1OC[C@@H](O)[C@@H](O)[C@@H]1O>>CCCC[N:21](CCCC)c1ccccc1.Cc1cc2c(cc1C)[n+:10]([H:20])cn2[C@H]1OC[C@@H](O)[C@@H](O)[C@@H]1O 10=20;20,21=21",
"Cc1ccc(C(=O)[O-:10])c(Cl)c1.O=Cc1cccc([O:21][H:20])c1>>Cc1ccc(C(=O)[O:10][H:20])c(Cl)c1.O=Cc1cccc([O-:21])c1 10=20;20,21=21",
"CC[C@H]1C[N+:21]2([H:20])CCc3cc(OC)c(OC)cc3[C@@H]2C[C@@H]1CC=O.Clc1ccc(C([NH2+]c2ccccc2)[O-:10])cc1>>CC[C@H]1C[N:21]2CCc3cc(OC)c(OC)cc3[C@@H]2C[C@@H]1CC=O.Clc1ccc(C([NH2+]c2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"CC(=O)Nc1nnc(S(=O)(=O)[NH:21][H:20])s1.CC(C)(C=O)[N:10](C)C>>CC(=O)Nc1nnc(S(=O)(=O)[NH-:21])s1.CC(C)(C=O)[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n+:21]2[H:20].CC[C@H](C(=O)[O-:10])[C@@]1(O)C[C@H]2CC[C@@H]1C2>>CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n:21]2.CC[C@H](C(=O)[O:10][H:20])[C@@]1(O)C[C@H]2CC[C@@H]1C2 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].OCCC[NH2+]CC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.OCCC[NH2+]CC[NH2+:10][H:20] 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccccc2)CCC1(C)C.CCN(CC)[N+:21](CC)(CC)[H:20]>>CC1=C(CC(C)[NH+:10](CC(O)c2ccccc2)[H:20])CCC1(C)C.CCN(CC)[N:21](CC)CC 10=20;20,21=21",
"CCOc1ccc2[nH]c[n+:21]([H:20])c2c1.C[N:10](C)Cc1cccc(NC(=O)/C=N/[O-])c1>>CCOc1ccc2[nH]c[n:21]c2c1.C[N+:10](C)(Cc1cccc(NC(=O)/C=N/[O-])c1)[H:20] 10=20;20,21=21",
"Cc1ccc(C[NH+:21](C)[H:20])cc1.O=C1Nc2ccc([NH2:10])cc2N1>>Cc1ccc(C[NH:21]C)cc1.O=C1Nc2ccc([NH2+:10][H:20])cc2N1 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N1CCOCC1)c1c([n+:21]2[H:20])CCC1.Cc1nc2c(n1C)C(=O)c1nc[n:10]c([O-])c1C2=O>>CCOc1ccc2c(c1)c(N1CCOCC1)c1c([n:21]2)CCC1.Cc1nc2c(n1C)C(=O)c1nc[n+:10]([H:20])c([O-])c1C2=O 10=20;20,21=21",
"CCCCC#CC(=O)[O:21][H:20].[S-]CC[NH:10]Cc1ccccc1>>CCCCC#CC(=O)[O-:21].[S-]CC[NH+:10](Cc1ccccc1)[H:20] 10=20;20,21=21",
"CC[NH+:21](Cc1ccc(C)cc1)[H:20].c1cc(CC[NH2:10])ccn1>>CC[NH:21]Cc1ccc(C)cc1.c1cc(CC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"O=C(OCc1ccccc1)c1ccc([O-:10])cc1.c1ccc(C(Nc2nc3ccccc3s2)c2ccc3cccnc3c2[O:21][H:20])nc1>>O=C(OCc1ccccc1)c1ccc([O:10][H:20])cc1.c1ccc(C(Nc2nc3ccccc3s2)c2ccc3cccnc3c2[O-:21])nc1 10=20;20,21=21",
"CC(C)/C=C/C(=O)[O:21][H:20].OCCCCCC[NH2:10]>>CC(C)/C=C/C(=O)[O-:21].OCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"COC(=O)c1ccc2c(ccc[n:10]2)c1.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O:21][H:20])c1ccccc1O>>COC(=O)c1ccc2c(ccc[n+:10]2[H:20])c1.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-:21])c1ccccc1O 10=20;20,21=21",
"O=C(c1ccc(Br)s1)[O:21][H:20].O=[N+]([O-])c1ccc(S(=O)(=O)[NH-:10])cc1>>O=C(c1ccc(Br)s1)[O-:21].O=[N+]([O-])c1ccc(S(=O)(=O)[NH:10][H:20])cc1 10=20;20,21=21",
"Nc1[nH]c2ccccc2[n+:21]1[H:20].[NH3+]CC(=O)C[NH2:10]>>Nc1[nH]c2ccccc2[n:21]1.[NH3+]CC(=O)C[NH2+:10][H:20] 10=20;20,21=21",
